US06479487B1
1-(5-Propoxypentyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-5-propoxypentane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-5-propoxypentane | ClCCCCCOCCC | C8H17ClO
product | 1-(5-Propoxypentyl)-4-piperidone | C(CC)OCCCCCN1CCC(CC1)=O | C13H25NO2
